US04294960
7-[2-(2-formamidothiazol-4-yl)-2cyclopentyloxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.7 g.) in methanol (17 ml.) and tetrahydrofuran (5 ml.), and conc. hydrochloric acid (1.5 g.) were treated in a similar manner to that of Example 15-(3) to give 7-[2-(2-aminothiazol-4-yl)-2cyclopentyloxyiminoacetamido]-3cephem-4-carboxylic acid (syn isomer, 1.3 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2cyclopentyloxyiminoacetamido]-3-cephem-4-carboxylic acid | 1.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC1CCCC1 | C18H19N5O6S2
reactant | hydrochloric acid | 1.5 g | Cl | ClH
solvent | methanol | 17 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2cyclopentyloxyiminoacetamido]-3cephem-4-carboxylic acid | 1.3 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC1CCCC1 | C17H19N5O5S2
